US06380218B1
2-(3-Chloro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-nicotinamide
To a 4-({[2-(3-Chloro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-cyclohexanecarboxylic acid ethyl ester (0.220 grams, 0.53 mmole) in tetrahydrofuran (5 ml) at −78° C. 1.4 M methyl lithium in diethyl ether (1.13 ml, 1.58 mmole) was added dropwise to keep the temperature below −60° C. and stirred at −78° C. for 2 hours and allowed to warm to room temperature. The mixture was quenched with sat'd NH4Cl and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over Na2SO4, filtered and concentrated to a product which was purified by chromatography on silica eluting with 2/3 ethyl acetate/hexane to give an off-white oil. (0.040 g); 1H NMR (400 mhz, CDCl3) d 0.84-1.70 (m, 12H), 1.83-1.87 (m, 4H), 3.30-3.37 (m, 2H), 7.04-7.07 (m, 1H), 7.11-7.19 (m, 2H), 7.24-7.27 (m, 1H), 7.35-7.39 (m, 1H), 7.79 (bs, 1H),8.19-8.21 (m, 1H), 8.60-8.62 (m, 1H).

reactant | 4-({[2-(3-Chloro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-cyclohexanecarboxylic acid ethyl ester | 0.53 mmole, 0.220 grams | C(C)OC(=O)C1CCC(CC1)CNC(=O)C=1C(=NC=CC1)OC1=CC(=CC=C1)Cl | C22H25ClN2O4
reactant | methyl lithium | 1.4 M | C[Li]
reactant | diethyl ether | 1.58 mmole, 1.13 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(3-Chloro-phenoxy)-N-[4-(1-hydroxy-1-methyl-ethyl)-cyclohexylmethyl]-nicotinamide | ClC=1C=C(OC2=C(C(=O)NCC3CCC(CC3)C(C)(C)O)C=CC=N2)C=CC1 | C22H27ClN2O3
